US05134142
A mixture of ethyl 1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carboxylate (3.6 g) and potassium hydroxide (2 g) in methanol (50 ml) was refluxed for 30 minutes. The solvent was evaporated. The residue was dissolved in water and washed with chloroform. The aqueous layer was acidified with dilute hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, and concentrated. The residue obtained was recrystallized from ethanol to give crystals of 1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carboxylic acid (2 g).

reactant | ethyl 1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carboxylate | 3.6 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)SC)C(=O)OCC | C19H17FN2O2S
reactant | potassium hydroxide | 2 g | [OH-].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-(4-fluorophenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carboxylic acid | 2 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)SC)C(=O)O | C17H13FN2O2S
